US05834499
To a solution of 0.11 g of 2-(1-methyl-2-oxo-4-pyrrolidinyl)-8H-indeno[1,2-d]thiazole in 4 ml of tetrahydrofuran, a 1.6 ml of a 1M solution of a borane-tetrahydrofuran complex in tetrahydrofuran was added, followed by heating under reflux for 2 hours. After cooling, a mixed solution of 10 ml of concentrated hydrochloric acid and 10 ml of methanol was added to the reaction mixture, followed by heating under reflux for 1.5 hours. The solvent was evaporated, and ethyl acetate and water were added to the resulting residue, followed by extraction with 1N hydrochloric acid. The aqueous layer was neutralized with sodium bicarbonate, followed by extraction with chloroform and drying over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting residue was subjected to silica gel column chromatography, whereby 0.04 g of 2-(1-methyl-3-pyrrolidinyl)-8H-indeno[1,2-d]thiazole was obtained from the fraction eluted with chloroform-methanol-29% aqueous ammonia (300:10:1). The product was dissolved in methanol. Fumaric acid was added to the resulting solution, followed by crystallization from acetone to give a fumarate.

reactant | 2-(1-methyl-2-oxo-4-pyrrolidinyl)-8H-indeno[1,2-d]thiazole | 0.11 g | CN1C(CC(C1)C=1SC2=C(N1)C=1C=CC=CC1C2)=O | C15H14N2OS
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-(1-methyl-3-pyrrolidinyl)-8H-indeno[1,2-d]thiazole | 0.04 g | CN1CC(CC1)C=1SC2=C(N1)C=1C=CC=CC1C2 | C15H16N2S
